US05180741
Stage A: 2-methyl-4-(2-propenyl)-1-indanone
1.88 g of sodium methylate in 15 ml of ethyl ether is cooled to 0° C., a solution composed of 2.8 ml of ethyl formiate and 3 g of 4-(2-propenyl)-indanone in 6 ml of ether is introduced over 15 minutes, 5 ml of ether is added, with agitation for 15 minutes, and the suspension is allowed to rise to 20° C. 70 ml of dimethylformamide is added, with agitation for 2 hours, 2.15 ml of methyl iodide and 2 ml of ether are introduced, followed by agitation for 2 hours. The resulting mixture is then poured over 100 ml of ice water and extracted with ethyl ether, the extracts are dried and the solvent is evaporated under reduced pressure. The residue is chromatographed on silica, eluting with a hexane-ethyl acetate mixture (95-5) and 1.62 g of expected product is obtained.

reactant | sodium methylate | 1.88 g | C[O-].[Na+]
reactant | 4-(2-propenyl)-indanone | 3 g | C(C=C)C1=C2CCC(C2=CC=C1)=O | C12H12O
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 2.15 ml | CI | CH3I
solvent | ethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | ether | 6 ml | CCOCC | C4H10O
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 2-methyl-4-(2-propenyl)-1-indanone | 1.62 g | CC1C(C2=CC=CC(=C2C1)CC=C)=O | C13H14O
